US04369320
N-[(4,6-dimethoxy-1,3,5-triazin-2-yl)aminocarbonyl]-8-quinolinesulfonamide
To 1.9 g of N-[(4,6-dichloro-1,3,5-triazin-2-yl)-aminocarbonyl]-8-quinolinesulfonamide in 15 ml methanol is added 0.81 g of sodium methoxide (exotherm to 49° C.). The resultant thick suspension was stirred at room temperature for 1 hour. Water (~25 ml) is added and the mixture filtered. The aqueous phase is washed with ether and separated. The aqueous phase is cooled in an ice-water bath and acidified with concentrated hydrochloric acid. The resultant white suspension is filtered to give 0.5 g, m.p. 151°-153° C.

reactant | N-[(4,6-dichloro-1,3,5-triazin-2-yl)-aminocarbonyl]-8-quinolinesulfonamide | 1.9 g | ClC1=NC(=NC(=N1)Cl)NC(=O)NS(=O)(=O)C=1C=CC=C2C=CC=NC12 | C13H8Cl2N6O3S
reactant | sodium methoxide | 0.81 g | C[O-].[Na+]
reactant | Water | ~25 ml | O | H2O
reactant | methanol | 15 ml | CO | CH4O
product | N-[(4,6-dimethoxy-1,3,5-triazin-2-yl)aminocarbonyl]-8-quinolinesulfonamide | COC1=NC(=NC(=N1)OC)NC(=O)NS(=O)(=O)C=1C=CC=C2C=CC=NC12 | C15H14N6O5S
